US08686024B2
To a solution of 3-(di-n-propylaminocarbonylmethyl)-5-methoxy-1-methylindoline (62 mg, 0.20 mmol) in 1.0 mL of dry dichloromethane was added boron tribromide (0.116 mL, 1.20 mmol) at 0° C. After the reaction mixture was stirred at room temperature for 30 min, methanol (0.2 mL) was added. After the reaction mixture was diluted with diethyl ether, the solution was washed with saturated NaHCO3 aqueous solution and brine, and dried over MgSO4. After filtration, the filtrate was concentrated in vacuo to obtain crude 3-(di-n-propylaminocarbonylmethyl)-1-methylindolin-5-ol. The title compound was synthesized using the same procedure employed for Example 2 (2), but with the above product instead of 1-benzylindolin-5-ol. The product was obtained as a white solid (28.6 mg, 2 steps 32%) having the following characteristics.

reactant | 3-(di-n-propylaminocarbonylmethyl)-5-methoxy-1-methylindoline | 0.20 mmol, 62 mg | C(CC)N(C(=O)CC1CN(C2=CC=C(C=C12)OC)C)CCC | C18H28N2O2
reactant | boron tribromide | 1.20 mmol, 0.116 mL | B(Br)(Br)Br | BBr3
reactant | methanol | 0.2 mL | CO | CH4O
solvent | dichloromethane | 1.0 mL | ClCCl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-(di-n-propylaminocarbonylmethyl)-1-methylindolin-5-ol | C(CC)N(C(=O)CC1CN(C2=CC=C(C=C12)O)C)CCC | C17H26N2O2
